US06066657
4-(4-Bromo-7-methoxybenzofuran-2-ylmethoxy)-piperidine-1-carboxylic Acid tert-butyl Ester
Sodium hydride (72 mg of a 60% dispersion in oil) was added to a stirred solution of 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (363 mg) in N,N-dimethylformamide (10 ml) under an inert atmosphere at ambient temperature. After stirring for 30 minutes 4-bromo-2-bromomethyl-7-methoxybenzofuran (526 mg) was added and the reaction stirred overnight. The reaction mixture was preadsorbed onto silica and purified by column chromatography eluting with 25% ethyl acetate in hexane to afford the desired product as a yellow oily solid (269 mg).

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 363 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 4-bromo-2-bromomethyl-7-methoxybenzofuran | 526 mg | BrC1=CC=C(C2=C1C=C(O2)CBr)OC | C10H8Br2O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(4-Bromo-7-methoxybenzofuran-2-ylmethoxy)-piperidine-1-carboxylic Acid tert-butyl Ester | 269 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC=1OC2=C(C1)C(=CC=C2OC)Br | C20H26BrNO5
